data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_283894_1,[C:1](/[C:3]([C:4]([C:2]([H:14])([H:15])[H:16])([C:5](=[O:6])[H:10])[H:8])=[N:7]/[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:5](\[O:6][H:8])[H:10])=[N:7]/[H:9])([H:11])([H:12])[H:13],66.7220750000088
MR_660999_1,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:9])([C:4](=[C:7]([H:18])[H:19])[N:8]=[C:6]([H:16])[H:17])([N:5]([H:11])[H:12])[H:10]>>[C:1]1([N:5]([H:11])[H:12])([H:10])[C:4]([N:3]([C:2]([H:13])([H:14])[H:15])[H:9])([N:8]=[C:6]([H:16])[H:17])[C:7]1([H:18])[H:19],66.66246250001663
MR_214316_0,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:9])([H:13])[H:14])([O:5][O:4][O:6][H:7])[H:8]>>[C:1]([C:3]([H:9])([H:13])[H:14])([O:4][O:6][H:7])([O:5][C:2]([H:10])([H:11])[H:12])[H:8],66.30353250003111
MR_187485_1,[C:1]([N:3]([N:4]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:7])[H:9])[C:6](=[O:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:3]1[N:4]([H:9])[C:5]1([C:2]([H:14])([H:15])[H:16])[O:7][C:6](=[O:8])[H:10])([H:11])([H:12])[H:13],69.5853574999849
MR_465607_0,[C:1]([N:4]([C:2]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])([C:5]([C:3]([H:17])([H:18])[H:19])=[O:8])([N:7]([H:12])[H:13])[H:9]>>[C:1]1([N:7]([H:12])[H:13])([H:9])[C:5]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])[O:8]1,45.71463000000733
MR_599492_1,[C:1]([C:3]([C:2]([C:4]([H:16])([H:17])[H:18])([N:7]([O:8][H:9])[H:10])[H:11])([H:14])[H:15])([N:5]([H:12])[H:13])=[O:6]>>[C:1]([C:3]([C:2]([C:4]([H:16])([H:17])[H:18])([N:7]=[O:8])[H:11])([H:14])[H:15])([N:5]([H:12])[H:13])([O:6][H:9])[H:10],62.01394250001783
MR_96572_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:10])([H:15])[H:16])([C:4]([H:11])([H:17])[H:18])[C:6]([C:7]([C:5]([H:19])([H:20])[H:21])=[O:9])=[O:8]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:10])([H:15])[H:16])([C:4]([H:11])([H:17])[H:18])[C@@:7]1([C:5]([H:19])([H:20])[H:21])[C:6]([O:8])[O:9]1,56.08908749999557
MR_88421_2,[C:1]([C:3]([O:9][H:11])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([O:8][C:6]([C:2]([C:5]([H:21])([H:22])[H:23])([N:7]([H:14])[H:15])[H:13])=[O:10])[H:12]>>[C:1]1([C:4]([H:18])([H:19])[H:20])([H:12])[C:3]([H:16])([H:17])[O:9][C:6]([C:2]([C:5]([H:21])([H:22])[H:23])([N:7]([H:14])[H:15])[H:13])([O:10][H:11])[O:8]1,42.01551750000135
MR_114811_1,[C:1]12([C:2]3([C:4]([C:8]([H:19])([H:20])[H:21])([H:11])[C:6]3([H:14])[H:15])[C:5]1([H:12])[H:13])[C:3]([C:7]([H:16])([H:17])[H:18])([H:10])[O:9]2>>[C@:1]12([C@@:2]3([C@:4]([C:8]([H:19])([H:20])[H:21])([H:11])[C:6]3([H:14])[H:15])[C:5]1([H:12])[H:13])[C@:3]([C:7]([H:16])([H:17])[H:18])([H:10])[O:9]2,67.34894750003122
MR_543676_2,[N:1](=[C:3](/[C:6]([C:2]([N:5]([H:12])[H:13])=[O:8])([H:14])[H:15])[O:7][H:9])\[N:4]([H:10])[H:11]>>[N:1]([C:2]([N:5]([H:12])[H:13])=[O:8])([C:3](=[C:6]([H:14])[H:15])[O:7][H:9])[N:4]([H:10])[H:11],61.34753749998822
MR_375320_1,[C:1]([C:2]([H:17])([H:18])[H:19])([C:3]([H:20])([H:21])[H:22])([C:4]([N:7]([H:13])[H:14])=[O:10])/[C:5]([N:8]([H:15])[H:16])=[N:9]\[N:6]([H:11])[H:12]>>[C:1]([C:2]([H:17])([H:18])[H:19])([C:3]([H:20])([H:21])[H:22])=[C:5]([N:8]([H:15])[H:16])[N:9]([C:4]([N:7]([H:13])[H:14])=[O:10])[N:6]([H:11])[H:12],68.39561749995681
MR_123740_0,[N:1](=[C:4](/[C:6]1([H:12])[C:2]([N:3]([H:8])[H:9])=[C:5]1[H:11])[H:10])\[H:7]>>[N:1](/[C:4](=[C:6]1\[C:2]([N:3]([H:8])[H:9])=[C:5]1[H:11])[H:10])([H:7])[H:12],71.86318250001236
MR_503215_2,[C@:1]1([C@@:3]2([H:10])[C:2]([C:6]([H:16])([H:17])[H:18])([C:7]([H:19])([H:20])[H:21])[O:8]2)([C:5]([H:13])([H:14])[H:15])[C:4]([H:11])([H:12])[O:9]1>>[C:1]1([C:3]2([H:10])[C:2]([C:6]([H:16])([H:17])[H:18])([C:7]([H:19])([H:20])[H:21])[O:8]2)([C:5]([H:13])([H:14])[H:15])[C:4]([H:11])([H:12])[O:9]1,58.584655000008325
MR_54577_1,[C:1](/[C:3](=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:9])[O:6][N:4]([H:7])[H:8])([H:10])([H:11])[H:12]>>[C:1]([C@@:3]1([C:5]([C:2]([H:13])([H:14])[H:15])([H:8])[H:9])[N:4]([H:7])[O:6]1)([H:10])([H:11])[H:12],72.42856000001169
MR_198748_2,[C:1](/[C:2]([N:4]([H:10])[H:11])=[N:6]\[N:3]([H:8])[H:9])([C:5](=[O:7])[H:12])([H:13])[H:14]>>[C:1](=[C:2]([N:4]([H:10])[H:11])[N:6]([N:3]([H:8])[H:9])[C:5](=[O:7])[H:12])([H:13])[H:14],52.55751749999462
MR_603484_0,[C:1]([C:2]([O:6][H:9])([H:12])[H:13])([N:3]([O:4][H:7])[H:10])([O:5][H:8])[H:11]>>[C:1]([N:3]([C:2]([O:6][H:9])([H:12])[H:13])[H:10])([O:4][H:7])([O:5][H:8])[H:11],70.63893000000007
MR_58971_0,[C:1]([C:4]([H:18])([H:19])[H:20])([N:5]([C:2]([H:12])([H:13])[H:14])/[C:6]([C:3]([H:15])([H:16])[H:17])=[N:8]/[O:7][H:9])([H:10])[H:11]>>[C:1]([C:4]([H:18])([H:19])[H:20])([N:8](/[C:6]([C:3]([H:15])([H:16])[H:17])=[N:5]/[C:2]([H:12])([H:13])[H:14])[O:7][H:9])([H:10])[H:11],70.6226150000056
MR_119470_0,[C@@:1]([C:2]([O:5][H:7])([H:11])[H:12])([N:3]([H:9])[H:10])([O:4][H:6])[H:8]>>[C@:1]([C:2]([O:4][H:6])([H:11])[H:12])([N:3]([H:9])[H:10])([O:5][H:7])[H:8],70.16642250001595
